US04271164
A solution of 9.4 g of alpha,2-dichloro-6-methyltoluene in 30 ml of 95% ethanol is treated with a solution of 3.8 g of potassium cyanide in 5 ml of water and heated at reflux for 6 hours. The crude product is isolated by pouring the cooled reaction mixture into water and filtering the precipitated solid. Recrystallization from aqueous ethanol gives 4.9 g of pure 2-chloro-6-methylphenylacetonitrile, mp 49°-51° C., in two crops.

reactant | alpha,2-dichloro-6-methyltoluene | 9.4 g | ClCC1=C(C=CC=C1C)Cl | C8H8Cl2
reactant | potassium cyanide | 3.8 g | [C-]#N.[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 2-chloro-6-methylphenylacetonitrile | 4.9 g | ClC1=C(C(=CC=C1)C)CC#N | C9H8ClN
